US03957830
A mixture of 2000 g of succinic acid (water-wet, 82.5%) and 400 g of butyrolactone is heated to the boil in a fractionating column having 10 theoretical trays. The rising vapor is removed at a reflux ratio of 3:1 and is condensed. The bottoms temperature is initially 115°C and rises over 4 hours at a constant rate to 170°C. The temperature at the top of the column remains at 100°C during this period and 500 g of water are distilled off. The reflux ratio is now raised to 5:1. After a further hour a total of 560 g of water has distilled off. The temperature of the vapors at the top of the column rises to 200°C and dehydration is complete. The butyrolactone is distilled off at 110°C/35 mm Hg to give 392 g thereof. The vacuum is then increased to 17 mm Hg and an intermediate run of butyrolactone/succinic anhydride gives a total of 54 g distilled off. At a constant boiling temperature of 142°C, 1094 g of succinic anhydride then distil over, this being equivalent to 78% of theory.

reactant | succinic acid | 2000 g | C(CCC(=O)O)(=O)O | C4H6O4
reactant | butyrolactone | 400 g | C1(CCCO1)=O | C4H6O2
product | butyrolactone succinic anhydride | C1(CCCO1)=O.C1(CCC(=O)O1)=O | InChI=1S/C4H4O3.C4H6O2/c5-3-1-2-4(6)7-3;5-4-2-1-3-6-4/h1-2H2;1-3H2
